US08022222B2
Using the method of Example 3, Step A, 1-methyl-1H-imidazole-2-thiol (720 mg, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to provide 2-chloro-4-(1-methyl-1H-imidazol-2-ylthio)pyridine (1.05 g, 74% yield) as an oil. 1H NMR (CDCl3) δ 8.17 (d, 1H), 7.30 (d, 1H), 7.20 (d, 1H), 6.88 (s, 1H), 6.80 (d, 1H), 3.70 (s, 3H).

reactant | 1-methyl-1H-imidazole-2-thiol | 6.31 mmol, 720 mg | CN1C(=NC=C1)S | C4H6N2S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(1-methyl-1H-imidazol-2-ylthio)pyridine | 1.05 g, 74% yield | ClC1=NC=CC(=C1)SC=1N(C=CN1)C | C9H8ClN3S
